US06048864
(c) 2-Amino-5-benzyloxy-4-methoxybenzonitrile
To a solution of 5-benzyloxy-4-methoxy-2-nitro-benzonitrile (35.0 g, 0.12 mol) in dichloromethane (500 ml) was added tetra-n-butylammonium chloride (20.3 g, 0.074 mol) followed by a solution of sodium dithionite hydrate (118.0 g, 0.61 mol) in H2O (400 ml) and the mixture was stirred vigorously for 2 hours at room temperature. A further quantity of sodium dithionite hydrate (47.2 g) was then added and stirring continued for 1 hour. The reaction mixture was then basified with 2N aqueous sodium hydroxide and the phases separated. The aqueous layer was extracted twice more with dichloromethane and the combined organic layers dried over MgSO4 and concentrated under reduced pressure to a volume of 60 ml. Treatment with excess ethereal hydrogen chloride led to the precipitation of an orange solid which was washed with diethyl ether and then dissolved in a mixture of dichloromethane and 2N aqueous sodium hydroxide. The phases were separated and the organic layer concentrated under reduced pressure and then dissolved in ethyl acetate and passed through a 5 cm plug of silica gel, eluting with ethyl acetate. On evaporation and drying under reduced pressure, the subtitle compound was obtained as a yellow solid (26.7 g, 85%). Rf 0.76 (0.880 aqueous ammonia:methanol:dichloromethane 1:10:90, v/v). MS m/z 255 (MH)+.

reactant | 5-benzyloxy-4-methoxy-2-nitro-benzonitrile | 0.12 mol, 35.0 g | C(C1=CC=CC=C1)OC=1C(=CC(=C(C#N)C1)[N+](=O)[O-])OC | C15H12N2O4
reactant | sodium dithionite hydrate | 0.61 mol, 118.0 g | O.S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium dithionite hydrate | 47.2 g | O.S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
catalyst | tetra-n-butylammonium chloride | 0.074 mol, 20.3 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | H2O | 400 ml | O | H2O
product | 2-Amino-5-benzyloxy-4-methoxybenzonitrile | NC1=C(C#N)C=C(C(=C1)OC)OCC1=CC=CC=C1 | C15H14N2O2
